US05453514
A solution of 1.26 g of pivaloylacetonitrile and 1.37 g of aminoguanidine hydrochloride in 15 ml of methanol and 15 ml of acetic acid was heated under reflux for 5 hours. The solvents were removed by distillation under reduced pressure, and the resulting residue was purified by silica gel chromatography (eluent: chloroform/methanol=5/1) and then recrystallized from ethanol-ether to obtain 0.74 g of 5-amino-3-(1,1-dimethylethyl)-1H-pyrazole-1-carboxamidine hydrochloride having the following physico-chemical properties:

reactant | pivaloylacetonitrile | 1.26 g | C(C(C)(C)C)(=O)CC#N | C7H11NO
reactant | aminoguanidine hydrochloride | 1.37 g | C(=N)(N)NN.Cl
solvent | methanol | 15 ml | CO | CH4O
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5-amino-3-(1,1-dimethylethyl)-1H-pyrazole-1-carboxamidine hydrochloride | 0.74 g | Cl.NC1=CC(=NN1C(=N)N)C(C)(C)C | InChI=1S/C8H15N5.ClH/c1-8(2,3)5-4-6(9)13(12-5)7(10)11;/h4H,9H2,1-3H3,(H3,10,11);1H
